US05206373
Step 2: 4-(4-Pyridinyl)butyl chloride HCl salt (4)
The reaction of 4-picolyllithium and 3-bromo-1-chloropropane was exothermic. It was extremely critical to keep internal temperature less than -65° C. to avoid the reaction of the desired product with 4-picolyllithium to give 1,5-bis-(4-pyridinyl)-pentane. The addition took about 2 h.

reactant | 4-picolyllithium | N1=CC=C(C=C1)C[Li]
reactant | 3-bromo-1-chloropropane | BrCCCCl | C3H6BrCl
product | 4-(4-Pyridinyl)butyl chloride HCl salt | Cl.N1=CC=C(C=C1)CCCCCl | InChI=1S/C9H12ClN.ClH/c10-6-2-1-3-9-4-7-11-8-5-9;/h4-5,7-8H,1-3,6H2;1H
